US07074800B1
Using an analogous procedure to that described in Example 37, 4-chloro-6-methoxy-7-(1-methylpiperidin-4-ylmethoxy)quinazoline (50 mg, 0.155 mmol), (prepared as described for the starting material in Example 10), was reacted with 5-amino-2-methylindole (0.171 mmol) to give 6-methoxy-4-(2-methylindol-5-ylamino)-7-(1-methylpiperidin 4-ylmethoxy)quinazoline hydrochloride (72 mg, quant.).

reactant | 4-chloro-6-methoxy-7-(1-methylpiperidin-4-ylmethoxy)quinazoline | 0.155 mmol, 50 mg | ClC1=NC=NC2=CC(=C(C=C12)OC)OCC1CCN(CC1)C | C16H20ClN3O2
reactant | 5-amino-2-methylindole | 0.171 mmol | NC=1C=C2C=C(NC2=CC1)C | C9H10N2
product | 6-methoxy-4-(2-methylindol-5-ylamino)-7-(1-methylpiperidin 4-ylmethoxy)quinazoline hydrochloride | 72 mg | Cl.COC=1C=C2C(=NC=NC2=CC1OCC1CCN(CC1)C)NC=1C=C2C=C(NC2=CC1)C | InChI=1S/C25H29N5O2.ClH/c1-16-10-18-11-19(4-5-21(18)28-16)29-25-20-12-23(31-3)24(13-22(20)26-15-27-25)32-14-17-6-8-30(2)9-7-17;/h4-5,10-13,15,17,28H,6-9,14H2,1-3H3,(H,26,27,29);1H
